US07767690B2
c) Methyl 2-methyl-2-piperidin-3(R,S)-ylpropionate hydrochloride
0.115 g of methyl 2-methyl-2-pyridin-3-ylpropionate (CAS 476429-23-9) is dissolved in an autoclave in 5 ml of methanol. The solution is admixed with 0.35 ml of 1.2M HCl in methanol and 0.012 g of platinum(IV) oxide, and the reaction mixture is hydrogenated at 4 bar and 23° over 46 hours. The catalyst is filtered off through Hyflo and the filtrate is concentrated by evaporation to give the crude title compound which is used directly in the next step.

reactant | methyl 2-methyl-2-pyridin-3-ylpropionate | 0.115 g | CC(C(=O)OC)(C)C=1C=NC=CC1 | C10H13NO2
reactant | HCl | 1.2M, 0.35 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | platinum(IV) oxide | 0.012 g | [Pt](=O)=O
product | Methyl 2-methyl-2-piperidin-3(R,S)-ylpropionate hydrochloride | Cl.CC(C(=O)OC)(C)C1CNCCC1 | InChI=1S/C10H19NO2.ClH/c1-10(2,9(12)13-3)8-5-4-6-11-7-8;/h8,11H,4-7H2,1-3H3;1H
